US05102891
1-(Propyl-4-pyridinylamino)-1H-indol-5-yl heptylcarbamate
To 1-(propyl-4-pyridinylamino)-1H-indol-5-ol (2.5 g) in 50 ml tetrahydrofuran was added 1,1'-carbonyldiimidazole (1.83 g) portionwise, and the reaction was allowed to proceed for 24 hours. To this mixture was added glacial acetic acid (2.15 ml) followed by a solution of heptylamine (1.45 ml) in tetrahydrofuran which had been treated with 0.56 ml of acetic acid. The reaction mixture was then stirred for 21 hours. The mixture was diluted with water, basified with sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4). After filtration, the solvent was evaporated to yield an oil (4.6 g), which was eluted with 5% methanol/dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield an oil (4.5 g), which was eluted with 5% methanol/dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield an oil (2.8 g). This material was dissolved in 50 ml of pentane/ether (1:1) and the solution was concentrated to 15 ml, whereupon crystals precipitated out of the solution. These were collected to yield a solid (1.0 g), m.p. 83°-85° C.

reactant | 1-(propyl-4-pyridinylamino)-1H-indol-5-ol | 2.5 g | C(CC)N(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C16H17N3O
reactant | 1,1'-carbonyldiimidazole | 1.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | heptylamine | 1.45 ml | C(CCCCCC)N | C7H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 0.56 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.15 ml | C(C)(=O)O | C2H4O2
product | 1-(Propyl-4-pyridinylamino)-1H-indol-5-yl heptylcarbamate | 4.6 g | C(CCCCCC)NC(OC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)CCC)=O | C24H32N4O2
